US07504401B2
To a stirred solution of 0.200 grams of (3-amino-5-bromo-phenyl)-pyridin-3-yl-methanone (0.72 mmol) in 10 mL of dichloroethane was added 0.87 mL (10.82 mmol) of pyridine followed by the addition of 0.56 mL (7.2 mmol) of methanesulfonyl chloride. The reaction was stirred at 80° C. for 2 hours. The volatiles were removed under reduced pressure affording material which was flash chromatographed (25% EtOAc/hexane to 1:1 EtOAc:hexane to 100% EtOAc) to give 0.150 grams of N-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-methanesulfonamide.

reactant | (3-amino-5-bromo-phenyl)-pyridin-3-yl-methanone | 0.72 mmol, 0.200 grams | NC=1C=C(C=C(C1)Br)C(=O)C=1C=NC=CC1 | C12H9BrN2O
reactant | pyridine | 10.82 mmol, 0.87 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 7.2 mmol, 0.56 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | N-[3-bromo-5-(pyridine-3-carbonyl)-phenyl]-methanesulfonamide | 0.150 grams | BrC=1C=C(C=C(C1)C(=O)C=1C=NC=CC1)NS(=O)(=O)C | C13H11BrN2O3S
